US06437194B2
The reaction, filtration, dehydration and solvent removal were carried out by the same procedures as Example 12 except that n-octylphenol ethylene oxide adduct having an ethylene oxide addition mole number of 5.0 was used in place of nonylphenol ethylene oxide adduct having an ethylene oxide addition mole number of 5.0. n-Octylcyclohexanol ethylene oxide adduct was obtained.

reactant | n-octylphenol ethylene oxide | C1CO1.C(CCCCCCC)C1=C(C=CC=C1)O
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | nonylphenol ethylene oxide | C1CO1.C(CCCCCCCC)C1=C(C=CC=C1)O
product | n-Octylcyclohexanol ethylene oxide | C1CO1.C(CCCCCCC)C1(CCCCC1)O | InChI=1S/C14H28O.C2H4O/c1-2-3-4-5-6-8-11-14(15)12-9-7-10-13-14;1-2-3-1/h15H,2-13H2,1H3;1-2H2
